US05270466
Preparation of 5-Chloro-4-isopropoxy-8-quinazolinol
A mixture of 4,5-dichloro-8-quinazolinol (3.0 g, 13.95 mmol) in isopropanol is heated at reflux for 30 minutes, cooled to room temperature and filtered to obtain a solid. The solid is mixed with water and saturated NaHCO3 solution. The resultant mixture is filtered and the filter cake is washed with water and dried to give the title product as an off-white solid, 1.71 g, mp 126°-126.5° C.

reactant | 4,5-dichloro-8-quinazolinol | 13.95 mmol, 3.0 g | ClC1=NC=NC2=C(C=CC(=C12)Cl)O | C8H4Cl2N2O
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
product | 5-Chloro-4-isopropoxy-8-quinazolinol | ClC1=C2C(=NC=NC2=C(C=C1)O)OC(C)C | C11H11ClN2O2
